US06835745B2
3-(3-Hydroxyphenyl)-5-(4-hydroxyphenyl)-4-methylthiophene-2-carbonitrile
A mixture of 3-(3-hydroxyphenyl)-5-(4-hydroxyphenyl)-4-methylthiophene-2-carbaldehyde oxime (0.76 g, 2.3 mmol) and pyridinium hydrochloride (2.7 g, 23 mmol) was heated at 195-205° C. in a 200 mL round bottom flask fitted with a 250 mL bump trap. After 2 h, the reaction mixture was cooled to 23° C. and taken up in a minimum of ethyl acetate (100 mL). The organic phase was washed with water (2×50 mL), saturated aqueous NaHCO3 (50 mL) and brine (50 mL), dried (Na2SO4) and concentrated in vacuo to give the crude product as a brown solid (0.61 g) which was pre-adsorbed on silica gel (2 g). Flash chromatography (10 g silica gradient 20%-30%-40% ethyl acetate-hexane) gave the title compound (0.37 g, 52%, m.p. 220-22° C.) as a pale orange solid after recrystallization from hot ethyl acetate-hexane.

reactant | 3-(3-hydroxyphenyl)-5-(4-hydroxyphenyl)-4-methylthiophene-2-carbaldehyde oxime | 2.3 mmol, 0.76 g | OC=1C=C(C=CC1)C1=C(SC(=C1C)C1=CC=C(C=C1)O)C=NO | C18H15NO3S
reactant | pyridinium hydrochloride | 23 mmol, 2.7 g | Cl.[NH+]1=CC=CC=C1
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 3-(3-Hydroxyphenyl)-5-(4-hydroxyphenyl)-4-methylthiophene-2-carbonitrile | 0.37 g, 52% | OC=1C=C(C=CC1)C1=C(SC(=C1C)C1=CC=C(C=C1)O)C#N | C18H13NO2S
